US07498337B2
2-chloro-5-(2,6-difluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde
To a solution of 5-(2,6-difluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde (250 mg) in tetrahydrofuran (10 mL) and N,N-dimethylformamide (10 mL) was added N-chlorosuccinimide (1.06 g) and the mixture was stirred for 15 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=7:3→1:1) to give the title compound as a pale-yellow oil (yield 160 mg, 58%).

reactant | 5-(2,6-difluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | 250 mg | FC1=C(C(=CC=C1)F)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)C=O | C16H10F2N2O3S
reactant | N-chlorosuccinimide | 1.06 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-chloro-5-(2,6-difluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 160 mg, 58% | ClC=1N(C(=CC1C=O)C1=C(C=CC=C1F)F)S(=O)(=O)C=1C=NC=CC1 | C16H9ClF2N2O3S
